US07723330B2
Step E: Preparation of 2-(cyclopropylmethylamino)-5-(3-fluoro-4-hydroxyphenyl)-3-methylpyrimidin-4(3H)-one:
A solution of 5-(4-(benzyloxy)-3-fluorophenyl)-2-(cyclopropylmethylamino)-3-methylpyrimidin-4(3H)-one (0.128 g, 0.337 mmol) in TFA (2 mL) was stirred at 40° C. for 2 hours and 45 minutes. The reaction mixture was concentrated to dryness and then purified by flash column chromatography, eluting with 20:1 dichloromethane/MeOH. The desired product (0.080 g, 82%) was obtained as a colorless glassy solid. 1H NMR (400 MHz, DMSO-d6) δ 9.71 (s, 1H), 7.87 (s, 1H), 7.46 (dd, J=2.3, 13.7 Hz, 1H), 7.35 (t, J=5.3 Hz, 1H), 7.24 (dd, J=2.3, 8.4 Hz, 1H), 6.90 (dd, J=8.4, 9.6 Hz, 1H), 3.34 (s, 3H), 3.24 (t, J=6.2 Hz, 2H), 1.16 (m, 1H), 0.44 (m, 2H), 0.26 (m, 2H). LRMS (ESI pos) m/e 290 (M+1).

reactant | 5-(4-(benzyloxy)-3-fluorophenyl)-2-(cyclopropylmethylamino)-3-methylpyrimidin-4(3H)-one | 0.337 mmol, 0.128 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(N(C(=NC1)NCC1CC1)C)=O)F | C22H22FN3O2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(cyclopropylmethylamino)-5-(3-fluoro-4-hydroxyphenyl)-3-methylpyrimidin-4(3H)-one | 0.080 g, 82% | C1(CC1)CNC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)O)F | C15H16FN3O2
